US06867221B2
Synthesis of 4-(p-anisidino)-1-(tert-butoxycarbonyl)piperidine
1-(tert-Butoxycarbonyl)-4-piperidone (116 g) and p-anisidine (68.3 g) were condensed in the same manner as described in Preparation Example 37 to give the title compound.

reactant | 1-(tert-Butoxycarbonyl)-4-piperidone | 116 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | p-anisidine | 68.3 g | COC1=CC=C(C=C1)N | C7H9NO
product | 4-(p-anisidino)-1-(tert-butoxycarbonyl)piperidine | COC1=CC=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O3
